US09447046B2
Preparation 6a: 6-bromo-3,4-dihydronaphthalene-1-carboxamide
To a solution of 6-bromo-1,2,3,4-tetrahydronaphthalen-1-one (5.46 g, 24.3 mmol) and ZnI2 (50 mg) in toluene (50 mL) was added TMSCN (4.82 mL, 48.6 mmol), and the solution stirred at 60° C. overnight. The reaction was cooled to rt, and H2SO4 (5.6 mL) was added. Then AcOH (34 mL), H2SO4 (25 mL) and H2O (4 mL) were added to the reaction, and it was heated to 105° C. for 3 h. The mixture was cooled and poured over ice-water (250 mL). The precipitate was collected by filtration, washed with water, and dried under vacuum to give 4.88 g (80%) of the title compound as an off-white solid. 1H NMR (400 MHz, DMSO-d6): δ 2.25-2.33 (2H, m), 2.72 (2H, t, J=8.0 Hz), 6.51 (1H, t, J=4.6 Hz), 7.20 (1H, br s), 7.35-7.40 (3H, m), 7.65 (1H, br s). [M+H] calc'd for C11H10BrNO, 252, 254. found 252, 254.

reactant | 6-bromo-1,2,3,4-tetrahydronaphthalen-1-one | 24.3 mmol, 5.46 g | BrC=1C=C2CCCC(C2=CC1)=O | C10H9BrO
reactant | TMSCN | 48.6 mmol, 4.82 mL | [Si](C)(C)(C)C#N | C4H9NSi
reactant | H2SO4 | 5.6 mL | OS(=O)(=O)O | H2O4S
reactant | AcOH | 34 mL | CC(=O)O | C2H4O2
reactant | H2SO4 | 25 mL | OS(=O)(=O)O | H2O4S
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
catalyst | ZnI2 | 50 mg | [Zn+2].[I-].[I-]
solvent | H2O | 4 mL | O | H2O
product | 6-bromo-3,4-dihydronaphthalene-1-carboxamide | 4.88 g, 80% | BrC=1C=C2CCC=C(C2=CC1)C(=O)N | C11H10BrNO
